US05739394
Ethyl 2-chloro-4,4,4-trifluoro-3,3-ethylenedioxybutanecarboxylate
80 g of a 20% strength solution of sodium ethylate in ethanol were added to 30 g of 2-chloro-1,1,1,4,4,4-hexafluoro-3,3-ethylenedioxybutane in 30 ml of ethanol and the mixture was stirred under reflux for 10 hours. 100 ml of 50% strength sulfuric acid were then metered in and the mixture was stirred under reflux for 6 hour. It was poured onto ice and extracted with methylene chloride. After drying over sodium sulfate and removal of the solvent and subsequent distillation in vacuo, 24 g of ethyl 2-chloro-4,4,4-trifluoro-3,3-ethylenedioxybutanecarboxylate of boiling point 108° C./20 mbar were obtained.

reactant | sodium ethylate | CC[O-].[Na+]
reactant | 2-chloro-1,1,1,4,4,4-hexafluoro-3,3-ethylenedioxybutane | 30 g | ClC(C(F)(F)F)C1(C(F)(F)F)OCCO1 | C6H5ClF6O2
reactant | sulfuric acid | S(O)(O)(=O)=O | H2O4S
reactant | ethanol | C(C)O | C2H6O
reactant | ethanol | 30 ml | C(C)O | C2H6O
product | Ethyl 2-chloro-4,4,4-trifluoro-3,3-ethylenedioxybutanecarboxylate | ClC(CC(=O)OCC)C1(C(F)(F)F)OCCO1 | C9H12ClF3O4
